US07812040B2
4-(Pyrrolidin-1-ylmethyl)phenol.
NaB(OAc)3H (32 g, 0.15 mol) was added in portions for 15 min to a mixture of pyrrolidine (9.1 mL, 0.11 mol) and 4-hydroxybenzaldehyde (12.2 g, 0.1 mol) in CH2Cl2 (100 mL) under vigorous stirring and cooling with an ice bath in an atmosphere of argon Ar. The mixture was stirred for 20 h and cooled with an ice bath. Concentrated HCl (20 mL) was added. The organic layer was separated and discarded. The aqueous one was alkalized with K2CO3 to pH 9 (40 mL) and extracted with chloroform (3×100 mL). The combined extracts were dried with Na2SO4, and evaporated to give the title compound (17.4 g, 98%) was obtained as white crystals. LCMS-data: (M+H)+ 178.1 and 179.1 (calculated for C11H15NO 177.0). 1H NMR (400Mz)-data (DMSO-d6, J, Hz): 9.19 (br s, 1H, OH); 7.03-7.11 (t, 1H, ArH, J=7.5 Hz); 6.66-6.73 (m, 1H, ArH); 6.34-6.59 (dd, 1H, ArH, J1=1.7 Hz, J2=6.4 Hz); 3.46 (s, 2H, CH2Ar); 2.37-2.43 (m, 4H, CH2CH2CH2CH2); 1.62-1.73 (m, 4H, CH2CH2CH2CH2).

reactant | NaB(OAc)3H | 0.15 mol, 32 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | pyrrolidine | 0.11 mol, 9.1 mL | N1CCCC1 | C4H9N
reactant | 4-hydroxybenzaldehyde | 0.1 mol, 12.2 g | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | HCl | 20 mL | Cl | ClH
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | 4-(Pyrrolidin-1-ylmethyl)phenol | 17.4 g, 98% | N1(CCCC1)CC1=CC=C(C=C1)O | C11H15NO
